datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Oc1ccc([O-:10])c2ccccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1ccc([O:10][H:20])c2ccccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCN(CC)CCOCC[N+:21](CC)(CC)[H:20].c1cc[n:10]cc1>>CCN(CC)CCOCC[N:21](CC)CC.c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"OCCc1cnc(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n+:21]2[H:20])[nH]1.[O-]c1cc([O-:10])c2ccccc2[nH+]1>>OCCc1cnc(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n:21]2)[nH]1.[O-]c1cc([O:10][H:20])c2ccccc2[nH+]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCC(CCCl)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCC(CCCl)[NH2+:10][H:20] 10=20;20,21=21",
"COCCSC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])=C1>>COCCSC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"Cc1cc([O-:10])ccc1[S+](C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc([O:10][H:20])ccc1[S+](C)C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+](C)(C)c1cc([N+](=O)[O-])ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[N+](C)(C)c1cc([N+](=O)[O-])ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1nc2[nH+]c[nH]c2c[n:10]1.O=C(C12CCC(CC1)C2)[O:21][H:20]>>Nc1nc2[nH+]c[nH]c2c[n+:10]1[H:20].O=C(C12CCC(CC1)C2)[O-:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cc(CCCCC[NH2:10])ccn1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cc(CCCCC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"CCCCOc1ccc(OCCC[N+:21]2([H:20])CCOCC2)cc1.Nc1c2[nH]cnc2[n:10]c(N)[n+]1[O-]>>CCCCOc1ccc(OCCC[N:21]2CCOCC2)cc1.Nc1c2[nH]cnc2[n+:10]([H:20])c(N)[n+]1[O-] 10=20;20,21=21",
"O=C(CCC(=O)[O-:10])c1ccc2ccccc2c1.c1ccc(CC(c2nnn[n-]2)[NH2+:21][H:20])cc1>>O=C(CCC(=O)[O:10][H:20])c1ccc2ccccc2c1.c1ccc(CC(c2nnn[n-]2)[NH2:21])cc1 10=20;20,21=21",
"COCC[NH2+:21][H:20].NCc1ccc(S(=O)(=O)[NH-:10])cc1>>COCC[NH2:21].NCc1ccc(S(=O)(=O)[NH:10][H:20])cc1 10=20;20,21=21",
"Cc1ccc(O)c(C(=O)[O:21][H:20])c1.O=P([O-])([O-])C([NH2+]Cc1cccnc1)c1ccccc1[O-:10]>>Cc1ccc(O)c(C(=O)[O-:21])c1.O=P([O-])([O-])C([NH2+]Cc1cccnc1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"COc1ccc2ccccc2[n+:21]1[H:20].Cc1cc(C)c([O-:10])c(C)c1[N+](=O)[O-]>>COc1ccc2ccccc2[n:21]1.Cc1cc(C)c([O:10][H:20])c(C)c1[N+](=O)[O-] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)(C(N)=S)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)(C(N)=S)[NH2+:10][H:20] 10=20;20,21=21",
"CC[N:10](C)CC.O=C(CNC(=O)C[NH2+:21][H:20])NCC(=O)N1CCCC1C(=O)[O-]>>CC[N+:10](C)(CC)[H:20].O=C(CNC(=O)C[NH2:21])NCC(=O)N1CCCC1C(=O)[O-] 10=20;20,21=21",
"C/C=C/CCC(=O)[O:21][H:20].CS(=O)Cc1cccc[n:10]1>>C/C=C/CCC(=O)[O-:21].CS(=O)Cc1cccc[n+:10]1[H:20] 10=20;20,21=21",
"CNc1c2nc(-c3ccc(S(C)=O)cc3OC)cn2cc[n:10]1.O=[N+]([O-])c1ccc2[nH]c(-c3ccccc3)[n+:21]([H:20])c2c1>>CNc1c2nc(-c3ccc(S(C)=O)cc3OC)cn2cc[n+:10]1[H:20].O=[N+]([O-])c1ccc2[nH]c(-c3ccccc3)[n:21]c2c1 10=20;20,21=21",
"OCCN1CC[NH:10]CC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>OCCN1CC[NH+:10]([H:20])CC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccccc2)CCC1(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1=C(CC(C)[NH+:10](CC(O)c2ccccc2)[H:20])CCC1(C)C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=NO)c1cc(C)c(C)cc1[O:21][H:20].NC(=O)Nc1c(C(=O)[O-])nc[n-:10]1>>CC(=NO)c1cc(C)c(C)cc1[O-:21].NC(=O)Nc1c(C(=O)[O-])nc[n:10]1[H:20] 10=20;20,21=21",
"CN(C)c1[nH]c2cc3c(cc2[n:10]1)CCCC3.OC[C@@H]1O[C@H]2[C@H](OC(=S)[N:21]2[H:20])[C@H]1O>>CN(C)c1[nH]c2cc3c(cc2[n+:10]1[H:20])CCCC3.OC[C@@H]1O[C@H]2[C@H](OC(=S)[N-:21]2)[C@H]1O 10=20;20,21=21",
"[H:20][NH+:21]1CCN(CC1)CCO.C[N+]1=CC=C(C=C1)[CH-:10]S(=O)(=O)C2=CC=CC=C2>>[H:20][CH:10](C1=CC=[N+](C=C1)C)S(=O)(=O)C2=CC=CC=C2.C1CN(CC[NH:21]1)CCO 10=20;20,21=21",
"O=C([O-])CCCCCC[NH2:10].O=[N+]([O-])c1cc(Cl)ccc1C[NH2+:21][H:20]>>O=C([O-])CCCCCC[NH2+:10][H:20].O=[N+]([O-])c1cc(Cl)ccc1C[NH2:21] 10=20;20,21=21",
"CC(CCC(=O)[O-])[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(CCC(=O)[O-])[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"NCC[NH:10]Cc1ccccc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>NCC[NH+:10](Cc1ccccc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"BrCC(Oc1ccccc1)(c1ccccc1)[O-:10].CC/C(N=O)=N/[O:21][H:20]>>BrCC(Oc1ccccc1)(c1ccccc1)[O:10][H:20].CC/C(N=O)=N/[O-:21] 10=20;20,21=21",
"CCCCOC(=O)c1ccc([O-:10])cc1.O=C(c1cccc2cc3ccccc3cc12)[O:21][H:20]>>CCCCOC(=O)c1ccc([O:10][H:20])cc1.O=C(c1cccc2cc3ccccc3cc12)[O-:21] 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCCCCCCCCCCC.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCCCCCCCC[NH+:10](CCCCCCCCCCCC)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCN(CC)CC(O)C[N:10](CC)CC.Oc1cccc(O)c1[NH2+:21][H:20]>>CCN(CC)CC(O)C[N+:10](CC)(CC)[H:20].Oc1cccc(O)c1[NH2:21] 10=20;20,21=21",
"Cc1cccc([O-:10])c1C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cccc([O:10][H:20])c1C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
